US08076326B2
3.2 1-[5-(3-Difluoromethoxy-benzenesulfonyl)-2-methyl-phenyl]-4-(toluene-4-sulfonyl)-piperazine
0.521 g of 1-(5-Iodo-2-methyl-phenyl)-4-(toluene-4-sulfonyl)-piperazine (1.14 mmol), 0.315 g of sodium 3-(difluoromethoxy)benzenesulfinate (1.37 mmol), 0.558 g of cesium carbonate (1.713 mmol), 0.026 g of Pd(dba)3 (0.029 mmol), 0.033 g of Xantphos (0.059 mmol) and 0.381 g of tetrabutylammonium chloride (1.37 mmol) were stirred for 8 h in 10 mL of toluene. The reaction mixture was filtered and the solvent evaporated. The crude product was purified via silica gel chromatography with toluene/methanol 20:1 (2.5% triethylamine), fractions containing the product combined and the solvents evaporated to yield 0.386 g of product.

reactant | 1-(5-Iodo-2-methyl-phenyl)-4-(toluene-4-sulfonyl)-piperazine | 1.14 mmol, 0.521 g | IC=1C=CC(=C(C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C | C18H21IN2O2S
reactant | sodium 3-(difluoromethoxy)benzenesulfinate | 1.37 mmol, 0.315 g | FC(OC=1C=C(C=CC1)S(=O)[O-])F.[Na+]
reactant | cesium carbonate | 1.713 mmol, 0.558 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetrabutylammonium chloride | 1.37 mmol, 0.381 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Xantphos | 0.059 mmol, 0.033 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 1-[5-(3-Difluoromethoxy-benzenesulfonyl)-2-methyl-phenyl]-4-(toluene-4-sulfonyl)-piperazine | 0.386 g | FC(OC=1C=C(C=CC1)S(=O)(=O)C=1C=CC(=C(C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C)F | C25H26F2N2O5S2
